US08207164B2
d) (S)-2-(5-Bromo-2-fluoro-phenyl)-2-methyl-oxirane
To a solution of (S)-2-(5-bromo-2-fluoro-phenyl)-propane-1,2-diol (37.35 g, 150 mmol) in CH2Cl2 (400 ml) was added under argon NEt3 (41.8 ml, 300 mmol) and dropwise mesyl chloride (12.8 ml, 165 mmol) at 0-5° C. After stirring for 0.5 h at 0-5° C. the reaction mixture was added to cold 1N HCl and extracted with CH2Cl2. Combined extracts were washed with 1N HCl, H2O and saturated NaHCO3 solution, dried over MgSO4, filtered and concentrated. The crude mesylate was dissolved in TBME (500 ml) and 200 ml 2N aqueous NaOH and after stirring for 2 h at 25° C. the mixture was extracted with TBME. Combined extracts were washed with NaH2PO4 solution and brine, dried over MgSO4, filtered and concentrated to provide the (S)-enantiomer as a colorless oil: 78% ee (Chiralpak AS-H 1218, hexane-EtOH 97:3, 0.4 mL/min); TLC (hexane-EtOAc 3:1): Rf=0.69; HPLC RtH5=1.186 min; 1H NMR (360 MHz, CDCl3): δ 7:46 (dd, 1H), 7.30 (m, 1H), 6.83 (dd, 1H), 2.88 (d, 1H), 2.72 (d, 1H), 1.59 (s, 3H).

reactant | (S)-2-(5-bromo-2-fluoro-phenyl)-propane-1,2-diol | 150 mmol, 37.35 g | BrC=1C=CC(=C(C1)[C@](CO)(C)O)F | C9H10BrFO2
reactant | mesyl chloride | 165 mmol, 12.8 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | HCl | 1N | Cl | ClH
reactant | hexane EtOH | CCCCCC.CCO
solvent | CH2Cl2 | 400 ml | C(Cl)Cl | CH2Cl2
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
product | (S)-2-(5-Bromo-2-fluoro-phenyl)-2-methyl-oxirane | BrC=1C=CC(=C(C1)[C@@]1(OC1)C)F | C9H8BrFO
